US09447106B2
To a solution of 6-nitro-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile (600 mg, 1.67 mmol) in 30 mL of methanol and 10 mL of DCM was added 10% w/w Pd/C (100 mg). The mixture was stirred at RT under H2 for 2 hr and filtered. The filtrate was concentrated and purified by chromatography column on silica gel eluting with PE/EA to afford 200 mg (36%) of 6-amino-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile as a white solid. MS (ESI) m/e [M+1]+ 332.1.

reactant | 6-nitro-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 1.67 mmol, 600 mg | [N+](=O)([O-])C1CNC=2N(C1)N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C19H15N5O3
solvent | methanol | 30 mL | CO | CH4O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 6-amino-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 200 mg, 36% | NC1CNC=2N(C1)N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C19H17N5O
